US06534517B2
To a −30° C. cooled solution of 9H-β-carboline (1.0 g, 5.95 mmol) in dry THF (30 mL) was added butyllithium (4.12 mL, 6.55 mmol) over a 15 min period. After 30 min at −30° C., the reaction mixture was cooled to −50° C. Ethylene oxide (1.6 mL in a cooled measuring cylinder) was then bubbled into the reaction mixture, in a stream of nitrogen. The temperature was slowly raised to −5° C. over a 2 h period, and stirring was continued for 84 h. The mixture was acidified with 1 N HCl (50 mL) and extracted with diclormethane (2×100 mL). The combined extracts were dried (MgSO4), and concentrated in vacuo. The product was chromatographed eluted with dichloromethan/methanol (20:1) to give 660 mg (53%) of 2-β-carbolin-9-yl-ethanol. 1H NMR (300 MHz, CDCl3): δ 3.62 (s, 1H), 4.10 (t, 2H), 4.50 (t, 2H), 7.30 (t, 1H), 7.50-7.65 (m, 2H), 7.80 (d, 1H), 8.10 (d, 1H), 8.22 (d, 1H), 8.78 (s, 1H).

reactant | 9H-β-carboline | 5.95 mmol, 1.0 g | C1=NC=CC=2C3=CC=CC=C3NC12 | C11H8N2
reactant | butyllithium | 6.55 mmol, 4.12 mL | C(CCC)[Li]
reactant | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-β-carbolin-9-yl-ethanol | 660 mg, 53% | C1=NC=CC=2C3=CC=CC=C3N(C12)CCO | C13H12N2O
